US05334597
Step 1 Methyl 3-methoxy-4-(5-nitro-1-(7-chloroquinolin-2-ylmethyl)indol-3-yl)methylbenzoate
To a mixture of the methyl 3-methoxy-4-(5-nitroindol-3-ylmethyl)benzoate (312 mg, 0.92 mmol) (J. Med. Chem. 1990, 33, 1781-1790) and 2-bromomethyl-7-chloroquinoline (225 mg, 0.88 mmol) in DMF (3 ml) at 0° C. was added 50% NaH (48 mg, 1.04 mmol). After stirring at 0° C. for 1 hr, ice was added to the reaction mixture. When the ice had melted the resultant solid was filtered, dried and swished with Et2O to afford the title compound (311 mg).

reactant | methyl 3-methoxy-4-(5-nitroindol-3-ylmethyl)benzoate | 0.92 mmol, 312 mg | COC=1C=C(C(=O)OC)C=CC1CC1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C18H16N2O5
reactant | 2-bromomethyl-7-chloroquinoline | 0.88 mmol, 225 mg | BrCC1=NC2=CC(=CC=C2C=C1)Cl | C10H7BrClN
reactant | NaH | 1.04 mmol, 48 mg | [H-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | Methyl 3-methoxy-4-(5-nitro-1-(7-chloroquinolin-2-ylmethyl)indol-3-yl)methylbenzoate | 311 mg | COC=1C=C(C(=O)OC)C=CC1CC1=CN(C2=CC=C(C=C12)[N+](=O)[O-])CC1=NC2=CC(=CC=C2C=C1)Cl | C28H22ClN3O5
